US04649160
6.1 g of phenethyl alcohol in 100 ml of dimethylformamide were treated with 4.8 g of a 50% sodium hydride dispersion in mineral oil and the mixture was stirred for 10 minutes at 60° C. 4.73 g of chloroacetic acid were added and the mixture was heated at 60° C. for 0.5 hour with stirring. The mixture was evaporated to dryness and the residue was partitioned between water and diethyl ether. The aqueous phase was acidified to pH 1 with concentrated hydrochloric acid and extracted with ethyl acetate. The organic phase was washed with water, dried over sodium sulfate, filtered and evaporated to dryness. The residue was recrystallized from ethyl acetate/hexane to give 7.65 g (85%) of 2-phenylethoxyacetic acid of melting point 46°-48° C.

reactant | phenethyl alcohol | 6.1 g | C(CC1=CC=CC=C1)O | C8H10O
reactant | sodium hydride | [H-].[Na+]
reactant | chloroacetic acid | 4.73 g | ClCC(=O)O | C2H3ClO2
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-phenylethoxyacetic acid | 7.65 g, 85% | C1(=CC=CC=C1)CCOCC(=O)O | C10H12O3
